US07820664B2
Step D: 7-fluoro-6-(2-fluoro-4-iodophenylamino)-2,3-dimethyl-2H-indazole-5-carboxylic acid:
To a solution of 7-fluoro-6-(2-fluoro-4-iodophenylamino)-2,3-dimethyl-2H-indazole-5-carboxylic acid methyl ester (137 mg, 0.30 mmol) in a mixture of THF (10 ml) and H2O (5 ml) was added a solution of LiOH (1.50 mL, 1M in H2O, 1.50 mmol). After stirring at room temperature for 4 h, the reaction was concentrated, acidified with 1 M HCl solution, and extracted with EtOAc (2×20 ml). The organic solution was dried over MgSO4 and concentrated to give 126 mg (96%) the title compound as an orange solid.

reactant | 7-fluoro-6-(2-fluoro-4-iodophenylamino)-2,3-dimethyl-2H-indazole-5-carboxylic acid methyl ester | 0.30 mmol, 137 mg | COC(=O)C1=CC2=C(N(N=C2C(=C1NC1=C(C=C(C=C1)I)F)F)C)C | C17H14F2IN3O2
reactant | LiOH | 1.50 mmol, 1M, 1.50 mL | [Li+].[OH-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | H2O | 5 ml | O | H2O
product | 7-fluoro-6-(2-fluoro-4-iodophenylamino)-2,3-dimethyl-2H-indazole-5-carboxylic acid | 126 mg, 96% | FC1=C(C(=CC2=C(N(N=C12)C)C)C(=O)O)NC1=C(C=C(C=C1)I)F | C16H12F2IN3O2
